US07173151B2
tert-Butyl 4-(cis-3-hydroxycyclohexyl)-2,2-dimethylbutyrate
2 g of tert-butyl 4-[cis-3-(tert-butyl-diphenylsilanyloxy)cyclohexyl]-2,2-dimethylbutyrate are dissolved in 10 ml of tetrahydrofuran, and 8 ml of a 1 M solution of tetrabutylammonium fluoride and tetrahydrofuran are added. The mixture is stirred at 60° C. for 2 hours. The reaction mixture is concentrated under reduced pressure and purified on silica gel using the mobile phase n-heptane:ethyl acetate=20:1=>1:1. This gives 730 mg of tert-butyl 4-[cis-3-hydroxycyclohexyl)-2,2-dimethylbutyrate as an oil. C16H30O3 (270.42), Rf(n-heptane:ethyl acetate=5:1)=0.22.

reactant | tert-butyl 4-[cis-3-(tert-butyl-diphenylsilanyloxy)cyclohexyl]-2,2-dimethylbutyrate | 2 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@H]1C[C@H](CCC1)CCC(C(=O)OC(C)(C)C)(C)C | C32H48O3Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | tert-Butyl 4-(cis-3-hydroxycyclohexyl)-2,2-dimethylbutyrate | O[C@H]1C[C@H](CCC1)CCC(C(=O)OC(C)(C)C)(C)C | C16H30O3
